US07884101B2
Preparation of N-[4-[2-(4,4-difluoro-piperidin-1-yl)-ethoxy]-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-fluoro-benzamide (Compound 778)
A mixture of N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-fluoro-benzamide (104 mg, 0.25 mmol), 4,4-difluoropiperidine hydrochloride (43 mg, 0.275 mmol) and potassium carbonate (103 mg, 0.75 mmol) in DMF (2 mL) was heated in microwave at 120° C. for 20 min. The crude was purified by HPLC to give the title compound (20 mg, 18%) as a white solid as TFA salt. 1H NMR (DMSO-d6, 400 MHz) δ 2.10-2.23 (m, 4H), 3.10-3.40 (m, 4H), 3.57 (t, 2H), 3.68 (s, 3H), 4.37 (t, 2H), 6.30 (d, 1H), 7.25 (d, 1H), 7.45 (dt, 1H), 7.50 (d, 1H), 7.57-7.62 (m, 1H), 7.72 (d, 1H), 7.74-7.82 (m, 2H), 7.89 (dd, 1H), 10.3 (s, 1H). Exact mass calculated for C24H25F3N4O2 458.2. found 459.4 (MH+).

reactant | N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-fluoro-benzamide | 0.25 mmol, 104 mg | BrCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)F)=O)C=1N(N=CC1)C | C19H17BrFN3O2
reactant | 4,4-difluoropiperidine hydrochloride | 0.275 mmol, 43 mg | Cl.FC1(CCNCC1)F
reactant | potassium carbonate | 0.75 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[4-[2-(4,4-difluoro-piperidin-1-yl)-ethoxy]-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-fluoro-benzamide | 20 mg, 18% | FC1(CCN(CC1)CCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)F)=O)C=1N(N=CC1)C)F | C24H25F3N4O2
